US05565464
Methyl 2-[(2'-Methoxycarbonylbiphenyl-4-yl)methyl]-3-oxoheptanoate
Under nitrogen atmosphere, 2.3 of methyl 3-oxoheptanoate, dissolved into 10 ml of anhydrous THF were dropped into a suspension containing 0.22 g of 80% NaH in 30 ml g of anhydrous THF. After the effervescence was over, 2.22 g of 4-bromomethyl-2'-methoxycarbonylbiphenyl, dissolved in 10 ml of anhydrous THF, were slowly dropped into the clear solution. After 15 minutes, water was added and acetic acid was added till acidic pH. The reaction mixture was extracted with AcOEt. The organic phase was washed with a NaCl saturated solution, dried on Na2SO4 and evaporated to dryness. The residue was purified by FC (eluent: hexane/AcOEt 8:2). 2.6 g of a clear oil were obtained (yield 93%); 1H-NMR (200 MHz, CDCl3)δ: 0.86 (t, 3H), 1.15-1.62 (m, 4H), 2.25-2.65 (m, 2H), 3.20 (d, 2H), 3.63 (s, 3H), 3.71 (s, 3H), 3.84 (t, 1H), 7.12-7.58 (m, 7H), 7.78 (dd, 1H).

reactant | methyl 3-oxoheptanoate | O=C(CC(=O)OC)CCCC | C8H14O3
reactant | NaH | 0.22 g | [H-].[Na+]
reactant | 4-bromomethyl-2'-methoxycarbonylbiphenyl | 2.22 g | BrCC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OC | C15H13BrO2
reactant | water | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Methyl 2-[(2'-Methoxycarbonylbiphenyl-4-yl)methyl]-3-oxoheptanoate | 2.6 g, yield 93% | COC(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CC(C(=O)OC)C(CCCC)=O | C23H26O5
